US05684018
N-(Acetoxyisopropoxy)carbonyl-β-(3,4-dimethoxyphenyl)ethylamine
A solution of 3,4-dimethoxyphenethylamine (110 mg) and acetoxyisopropyl p-nitrophenyl carbonate (0.18 g) in dimethylformamide (3 mL) was stirred at room temperature for 18 hours. The reaction mixture was diluted with water (25 mL) and extracted with ethyl acetate. The ethyl acetate extract was washed with water, ice cold 1% aqueous sodium hydroxide, 1N HCl, water and brine. The organic extract was dried over sodium sulfate and evaporated. The residue (0.11 g) was purified by preparative thin layer chromatography on silica gel plates. The title compound (75 mg) was eluted with ethyl acetate-chloroform (5:95). 1H NMR (CDCl3) δ 1.81 (6H, s), 2.05 (3H, s), 2.75 (2H, t), 3.36 (2H, m), 4.85 (1H, br, t), 6.71-6.84 (3H, m); 13C NMR (CDCl3) δ 22.05, 25.9, 35.45, 41.91, 55.76, 55.83, 105.07, 111.29, 111.87, 120.61, 131.09, 147.59, 148.91, 153.36 and 168.79; 1R (film) 3370, 2941, 1748, 1718, 1517, 1464, 1370, 1261, 1238, 1140, 1027 cm-1 ; HRMS (e/m) calculated for C16H23NO6, 325.1525; found, 325.1512.

reactant | 3,4-dimethoxyphenethylamine | 110 mg | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | acetoxyisopropyl p-nitrophenyl carbonate | 0.18 g | C(OC(C)(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H13NO7
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | N-(Acetoxyisopropoxy)carbonyl-β-(3,4-dimethoxyphenyl)ethylamine | C(C)(=O)OC(C)(C)OC(=O)NCCC1=CC(=C(C=C1)OC)OC | C16H23NO6
